US07981893B2
SYNTHESIS OF 6-(4-HYDROXYPHENYL)-1-(PYRROLIDIN-2-YLMETHYL)-1H-IMIDAZO[4,5-B]PYRAZIN-2(3H)-ONE
tert-Butyl 2-((6-bromo-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyrazin-1-yl)methyl)pyrrolidine-1-carboxylate tert-Butyl 2-((3-amino-6-bromopyrazin-2-ylamino)methyl)pyrrolidine-1-carboxylate (2.0 g., 5.4 mmol), 1,1′-carbonyldiimidazole (1.75 g., 10.80 mmol), and tetrahydrofuran (7 mL) were combined in a sealed tube and heated to 120° C. overnight. The solvent was removed and the crude purified using silica gel chromatography (20% hexane in ethyl acetate) to yield the title compound (1.73 g., 80% yield). MS (ESI) m/z 398 [M]+, 400 [M+2]+.

reactant | tert-Butyl 2-((6-bromo-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyrazin-1-yl)methyl)pyrrolidine-1-carboxylate tert-Butyl 2-((3-amino-6-bromopyrazin-2-ylamino)methyl)pyrrolidine-1-carboxylate | 5.4 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1C(CCC1)CNC1=NC(=CN=C1N)Br.BrC1=CN=C2C(=N1)N(C(N2)=O)CC2N(CCC2)C(=O)OC(C)(C)C
reactant | 1,1′-carbonyldiimidazole | 10.80 mmol, 1.75 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 6-(4-HYDROXYPHENYL)-1-(PYRROLIDIN-2-YLMETHYL)-1H-IMIDAZO[4,5-B]PYRAZIN-2(3H)-ONE | 1.73 g, 80% yield | OC1=CC=C(C=C1)C1=CN=C2C(=N1)N(C(N2)=O)CC2NCCC2 | C16H17N5O2
